US07855216B2
Step 1: Ethyl 4-chloro-nicotinate
A suspension of 4-chloro-nicotinic acid (3.0 g, 19.0 mmol) in thionyl chloride (50 ml) was heated under reflux for 90 minutes. After cooling to ambient temperature, the solution was concentrated to dryness and then azeotroped with toluene (2×50 ml) to afford a solid. The resultant solid was added in portions to a cooled (0° C.) solution of ethanol (25 ml) and DIPEA (15 ml). The reaction was stirred at room temperature for 4 hours then concentrated in vacuo before water (75 ml) was added. The solution was extracted with ethyl acetate (2×75 ml) and the combined organic phases were dried over sodium sulfate, then concentrated to give the title compound as a brown oil (3.3 g, 94%). 1H NMR (CDCl3, 400 MHz) 9.03 (s, 1H), 7.58 (d, J=5.4 Hz, 1H), 7.41 (dd, J=5.4 Hz, 0.5 Hz, 1H), 4.45 (q, J=7.3 Hz, 2H), 1.43 (t, J=7.3 Hz, 3H).

reactant | 4-chloro-nicotinic acid | 19.0 mmol, 3.0 g | ClC1=CC=NC=C1C(=O)O | C6H4ClNO2
reactant | ethanol | 25 ml | C(C)O | C2H6O
reactant | DIPEA | 15 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
product | Ethyl 4-chloro-nicotinate | 3.3 g, 94% | ClC1=CC=NC=C1C(=O)OCC | C8H8ClNO2
